### PR TITLE
feat: Representation on Lorentz Vectors

### PR DESCRIPTION
**Pull request by jstoobysmith**
The representation of the Lorentz group on Lorentz vectors. This is needed as part of a larger move to clean up Tensors, although it should be independently useful.

### CODE REVIEW

File: Physlib/Relativity/Tensors/RealTensor/CoVector/Basic.lean [hunk 1]
```diff
@@ -116,6 +122,10 @@ lemma apply_add {d : ℕ} (v w : CoVector d) (i : Fin 1 ⊕ Fin d) :
 lemma apply_sub {d : ℕ} (v w : CoVector d) (i : Fin 1 ⊕ Fin d) :
     (v - w) i = v i - w i := by rfl
 
+@[simp]
+lemma apply_sum {d : ℕ} {ι : Type} [Fintype ι] (f : ι → CoVector d) (i : Fin 1 ⊕ Fin d) :
+    (∑ j, f j) i = ∑ j, f j i := Finset.sum_apply i Finset.univ f
```
Comment (morrison-daniel) [inline Physlib/Relativity/Tensors/RealTensor/CoVector/Basic.lean:127]: I feel this is redundant as it's just an application of `Finset.sum_apply`

File: Physlib/Relativity/Tensors/RealTensor/CoVector/Representation.lean [hunk 2]
```diff
@@ -0,0 +1,89 @@
...
+-/
+
+@[expose] public section
+
+
+open Module
+open Matrix
+open MatrixGroups
+open Complex
+open TensorProduct
```
Comment (morrison-daniel) [inline Physlib/Relativity/Tensors/RealTensor/CoVector/Representation.lean]:
```suggestion
open Module Matrix MatrixGroups Complex TensorProduct
```

File: Physlib/Relativity/Tensors/RealTensor/CoVector/Representation.lean [hunk 3]
```diff
@@ -0,0 +1,89 @@
...
+
+noncomputable section
+
+namespace Lorentz
+
+namespace CoVector
+attribute [-simp] Fintype.sum_sum_type
+
+/-- The representation of the Lorentz group on Lorentz vectors. -/
+def rep (d : ℕ) : Representation ℝ (LorentzGroup d) (CoVector d) where
```
Comment (morrison-daniel) [inline Physlib/Relativity/Tensors/RealTensor/CoVector/Representation.lean]:
```suggestion
def rep {d : ℕ} : Representation ℝ (LorentzGroup d) (CoVector d) where
```
Should be able to make this implicit

File: Physlib/Relativity/Tensors/RealTensor/CoVector/Representation.lean [hunk 4]
```diff
@@ -0,0 +1,89 @@
...
+  toFun g := Matrix.toLinAlgEquiv basis (LorentzGroup.transpose g⁻¹)
```
Comment (morrison-daniel) [inline Physlib/Relativity/Tensors/RealTensor/CoVector/Representation.lean]:
```suggestion
  toFun Λ := Matrix.toLinAlgEquiv basis (LorentzGroup.transpose Λ⁻¹)
```
I think it would be nice to make the notation here consistent with the rest of the section, same with map_mul' below.

File: Physlib/Relativity/Tensors/RealTensor/CoVector/Representation.lean [hunk 5]
```diff
@@ -0,0 +1,89 @@
...
+  exact (LinearEquiv.eq_symm_apply (LinearMap.toMatrix basis basis)).mp rfl
+
+lemma rep_injective (d : ℕ) (Λ : LorentzGroup d) : Function.Injective (rep d Λ) := by
+  intro v1 v2 h
+  rw [rep_apply_eq_mulVec, rep_apply_eq_mulVec] at h
+  exact Matrix.mulVec_injective_of_isUnit (isUnit_of_invertible _) h
+
+lemma rep_surjective (d : ℕ) (Λ : LorentzGroup d) : Function.Surjective (rep d Λ) := by
+  intro v
+  use (LorentzGroup.transpose Λ⁻¹)⁻¹ *ᵥ v
```
Comment (morrison-daniel) [inline Physlib/Relativity/Tensors/RealTensor/CoVector/Representation.lean]:
```suggestion
  use (LorentzGroup.transpose Λ) *ᵥ v
```
I see what you wrote is easier to prove by simp, but I think it's nicer to use the simpler form even if it takes an extra step to prove (likely could be fixed by adding appropriate simp lemmas). But this technically doesn't matter

File: Physlib/Relativity/Tensors/RealTensor/Vector/Basic.lean [hunk 6]
```diff
@@ -54,6 +54,12 @@ def equivEuclid (d : ℕ) :
 lemma equivEuclid_apply (d : ℕ) (v : Vector d) (i : Fin 1 ⊕ Fin d) :
     equivEuclid d v i = v i := rfl
 
+@[ext]
```
Comment (morrison-daniel) [inline Physlib/Relativity/Tensors/RealTensor/Vector/Basic.lean:57]: I won't duplicate all my comments but same things go for both versions

**Review by morrison-daniel — CHANGES_REQUESTED** [review]
One general comment that maybe we don't fix here because it's out of scope is I think it would help clean this up is to define `LorentzGroup` as a subtype (probably `Subgroup`) of `Matrix` because I think that would fix some casting problems and allow us to use dot notation. But that's maybe for another PR

File: Physlib/Relativity/Tensors/RealTensor/CoVector/Basic.lean (hunk 1 above)
Comment (jstoobysmith) [reply Physlib/Relativity/Tensors/RealTensor/CoVector/Basic.lean:127]: I think this is needed for the @[simp] to work.

Comment (morrison-daniel) [reply Physlib/Relativity/Tensors/RealTensor/CoVector/Basic.lean:127]: Okay sounds good

**Review by morrison-daniel — APPROVED** [review]
